US05652246
Stage B: 1-Benzyl-4-[N-methoxyacetyl-(3,4-dichlorophenyl)amino]piperidine
12 mmol of methoxyacetyl chloride are added to 12 mmol of 1-benzyl-4-[(3,4-dichlorophenyl)amino]piperidine obtained in the preceding stage in 50 ml of anhydrous tetrahydrofuran (THF). The mixture is brought to reflux for 3 hours. After cooling, the expected product is obtained by filtering the precipitate, which is washed with THF and dried.

reactant | methoxyacetyl chloride | 12 mmol | COCC(=O)Cl | C3H5ClO2
reactant | 1-benzyl-4-[(3,4-dichlorophenyl)amino]piperidine | 12 mmol | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC(=C(C=C1)Cl)Cl | C18H20Cl2N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-4-[N-methoxyacetyl-(3,4-dichlorophenyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C(COC)=O)C1=CC(=C(C=C1)Cl)Cl | C21H24Cl2N2O2
